US08183246B2
6-{[6-(3-Fluorophenyl)-5-(4-methoxyphenyl)furo[2,3-d]pyrimidin-4-yl]amino}hexanoic acid methyl ester
Add 3 mg (0.01 mmol) trans-bis(dicyclohexylamine)palladium(II) acetate [T. Bin, J. Org. Chem. 2004, 69, 4330-4335] to a mixture of 100 mg (0.22 mmol) 6-{[6-bromo-5-(4-methoxyphenyl)furo[2,3-d]pyrimidin-4-yl]amino}hexanoic acid methyl ester, 47 mg (0.34 mmol) 3-fluorophenylboronic acid and 145 mg (0.45 mmol) caesium carbonate in 5 ml dioxan, and stir for 16 h at 80° C. After adding 95 mg (0.45 mmol) potassium phosphate, a further 47 mg (0.34 mmol) 3-fluorophenylboronic acid and a spatula tip of trans-bis(dicyclohexylamin)palladium(II) acetate, stir the reaction mixture for a further 4 h at 80° C. Then filter the reaction mixture and purify directly by preparative RP-HPLC (gradient: water/acetonitrile). 57 mg (53% of theor.) of the desired product is obtained.

reactant | 6-{[6-bromo-5-(4-methoxyphenyl)furo[2,3-d]pyrimidin-4-yl]amino}hexanoic acid methyl ester | 0.22 mmol, 100 mg | COC(CCCCCNC=1C2=C(N=CN1)OC(=C2C2=CC=C(C=C2)OC)Br)=O | C20H22BrN3O4
reactant | 3-fluorophenylboronic acid | 0.34 mmol, 47 mg | FC=1C=C(C=CC1)B(O)O | C6H6BFO2
reactant | caesium carbonate | 0.45 mmol, 145 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | potassium phosphate | 0.45 mmol, 95 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | 3-fluorophenylboronic acid | 0.34 mmol, 47 mg | FC=1C=C(C=CC1)B(O)O | C6H6BFO2
solvent | dioxan | 5 ml | O1CCOCC1 | C4H8O2
catalyst | trans-bis(dicyclohexylamine)palladium(II) acetate | 0.01 mmol, 3 mg | CC(=O)O.CC(=O)O.C1CCC(CC1)[N-]C2CCCCC2.C1CCC(CC1)[N-]C2CCCCC2.[Pd+2]
product | 6-{[6-(3-Fluorophenyl)-5-(4-methoxyphenyl)furo[2,3-d]pyrimidin-4-yl]amino}hexanoic acid methyl ester | COC(CCCCCNC=1C2=C(N=CN1)OC(=C2C2=CC=C(C=C2)OC)C2=CC(=CC=C2)F)=O | C26H26FN3O4
